US08541457B2
Synthesis of 2-(Cyclopropanecarbonylamino)-4-methylthiazole-5-carboxylic Acid 4-Chlorobenzylamide
Following the procedure as described in Example 2, making variations only as required to use cyclopropanecarbonyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid 4-chlorobenzylamide, the title compound was obtained as a white solid in 55% yield; 1H NMR (DMSO-d6, 300 MHz) δ 8.51 (t, J=6.0 Hz, 1H), 7.36-7.25 (m, 4H), 4.32 (d, J=6.0 Hz, 2H), 2.50 (s, 3H), 1.94-1.84 (m, 1H), 0.93-0.87 (m, 4H); MS (ES+) m/z 350.1 (M+1).

reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 2-amino-4-methylthiazole-5-carboxylic acid 4-chlorobenzylamide | ClC1=CC=C(CNC(=O)C2=C(N=C(S2)N)C)C=C1 | C12H12ClN3OS
product | 2-(Cyclopropanecarbonylamino)-4-methylthiazole-5-carboxylic Acid 4-Chlorobenzylamide | 55% yield | ClC1=CC=C(CNC(=O)C2=C(N=C(S2)NC(=O)C2CC2)C)C=C1 | C16H16ClN3O2S
